US04732912
A solution of isobutyl chloroformate (0.09 g.) in methylene chloride (5 ml.) was added to a stirred solution of 11-(6-methoxy-2-p-methoxyphenylnaphth-1-yl)undecanoic acid (0.25 g.) and N-methylmorpholine (0.17 g.) in methylene chloride (10 ml.) which was cooled to -30° C., and the mixture was allowed to warm up to laboratory temperature. A solution of N-methylbutylamine (0.073 g.) in methylene chloride (5 ml.) was added and the mixture was stirred for 2 hours, neutralised with aqueous 2N-hydrochloric acid (15 ml.) and extracted three times with diethyl ether (30 ml. each time). The combined extracts were washed with water, dried and evaporated to dryness and the residue was purified by chromatography on a silica gel column using a 100:1 v/v mixture of methylene chloride and methanol as eluant. A solution of boron tribromide (0.48 g.) in methylene chloride (3 ml.) was added to a stirred solution of the N-butyl-11-(6-methoxy-2-p-methoxyphenylnaphth-1-yl)-N-methylundecanamide thus obtained (0.2 g.) in methylene chloride (10 ml.) which was cooled to -30° C. under an atmosphere of argon, and the mixture was allowed to warm up to 0° C. and was stirred at that temperature for 2 hours. Water (10 ml.) was added, the mixture was extracted three times with diethyl ether (20 ml. each time) and the combined extracts were washed with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 100:3 v/v mixture of methylene chloride and methanol as eluant. There was thus obtained as an oil N-butyl-11-(6-hydroxy-2-p-hydroxyphenylnaphth-1-yl)-N-methylundecanamide, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy as follows:

reactant | isobutyl chloroformate | 0.09 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 11-(6-methoxy-2-p-methoxyphenylnaphth-1-yl)undecanoic acid | 0.25 g | COC=1C=C2C=CC(=C(C2=CC1)CCCCCCCCCCC(=O)O)C1=CC=C(C=C1)OC | C29H36O4
reactant | N-methylmorpholine | 0.17 g | CN1CCOCC1 | C5H11NO
reactant | N-methylbutylamine | 0.073 g | CNCCCC | C5H13N
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 10 ml | O | H2O
product | N-butyl-11-(6-hydroxy-2-p-hydroxyphenylnaphth-1-yl)-N-methylundecanamide | C(CCC)N(C(CCCCCCCCCCC1=C(C=CC2=CC(=CC=C12)O)C1=CC=C(C=C1)O)=O)C | C32H43NO3
